US03956335
A solution of 19.35 g of 1 -(p-acetamido-phenoxy)-2,3-epoxy-propane and 9.15 g of 1-(4-piperidyl)-2-oxo-hexahydro-pyrimidine in 10 ml of abs. ethanol is heated to 95°C. The reaction product crystallises out at boiling heat after about 5 minutes. The crystal broth is diluted with 10 ml of abs. ethanol and heated for a further 5 hours. When the reaction is terminated the batch is evaporated in vacuo and the residue is recrystallised from abs. ethanol/ether to yield the 1-[3-(p-acetamido-phenoxy)-2-hydroxypropyl]-4-(2-oxo-hexahydro-1-pyrimidinyl)-piperidine, which melts at 218°-221°C.

reactant | 1 -(p-acetamido-phenoxy)-2,3-epoxy-propane | 19.35 g | C(C)(=O)NC1=CC=C(OCC2CO2)C=C1 | C11H13NO3
reactant | 1-(4-piperidyl)-2-oxo-hexahydro-pyrimidine | 9.15 g | N1CCC(CC1)N1C(NCCC1)=O | C9H17N3O
solvent | ethanol | C(C)O | C2H6O
product | 1-[3-(p-acetamido-phenoxy)-2-hydroxypropyl]-4-(2-oxo-hexahydro-1-pyrimidinyl)-piperidine | C(C)(=O)NC1=CC=C(OCC(CN2CCC(CC2)N2C(NCCC2)=O)O)C=C1 | C20H30N4O4
